US09290485B2
c) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((7-chloroquinolin-2-yl)methyl)-1H-1,2,3-triazole-4-carboxamide
To a solution of tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate (46.7 mg, 0.089 mmol) in DCM (0.6 ml) was added TFA (0.138 ml, 1.789 mmol). Reaction mixture was stirred overnight at 23° C.

reactant | tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-1,2,3-triazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate | 0.089 mmol, 46.7 mg | ClC1=CC=C2C=CC(=NC2=C1)CN1N=NC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C26H28ClN7O3
reactant | TFA | 1.789 mmol, 0.138 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.6 ml | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-((7-chloroquinolin-2-yl)methyl)-1H-1,2,3-triazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1N=NN(C1)CC1=NC2=CC(=CC=C2C=C1)Cl)C | C21H20ClN7O
